US09282743B2
A solution of 5-methoxy-[1,2,5]triazepane-1,2-dicarboxylic acid di-tert-butyl ester in diethyl ether was treated with gaseous hydrogen chloride to generate a white precipitate. The solid was filtered, washed with diethyl ether and dried to afford 5-methoxy-[1,2,5]triazepane-1,2-dicarboxylic acid di-tert-butyl ester hydrochloride salt. To a suspension of 5-methoxy-[1,2,5]triazepane-1,2-dicarboxylic acid di-tert-butyl ester hydrochloride salt (2.5 g, 6.8 mmol) in ethyl acetate (10 ml) was added a solution of hydrogen chloride in 1,4-dioxane (4 M, 9 ml, 36.0 mmol) at room temperature dropwise. The reaction mixture was heated at 90° C. for one hour, the solvent evaporated, the residue washed with diethyl ether and dried in vacuo. Yield: 1.4 g of 5-methoxy-[1,2,5]triazepane hydrochloride salt (compound P4.2) as a yellowish solid, this material was used without further purification.

reactant | 5-methoxy-[1,2,5]triazepane-1,2-dicarboxylic acid di-tert-butyl ester | C(C)(C)(C)OC(=O)N1N(CCN(CC1)OC)C(=O)OC(C)(C)C | C15H29N3O5
reactant | hydrogen chloride | Cl | ClH
solvent | diethyl ether | C(C)OCC | C4H10O
product | 5-methoxy-[1,2,5]triazepane-1,2-dicarboxylic acid di-tert-butyl ester hydrochloride salt | Cl.C(C)(C)(C)OC(=O)N1N(CCN(CC1)OC)C(=O)OC(C)(C)C | InChI=1S/C15H29N3O5.ClH/c1-14(2,3)22-12(19)17-10-8-16(21-7)9-11-18(17)13(20)23-15(4,5)6;/h8-11H2,1-7H3;1H
